US08664217B2
Potassium carbonate (1.89 g, 13.7 mmol) was added to a DMF solution (50 ml) of 2-nitro-N-(2-pyridin-3-ylethyl)benzene sulfonamide (1.40 g, 4.56 mmol) and 1-ethyl-7-(3-iodopropoxy)-3,3,5-trimethyl-1,5-dihydrobenzo[b][1,4 ]diazepine-2,4-dione (2.16 g, 5.0 mmol), and stirred at room temperature overnight. Water was added to the reaction mixture, and extraction with ethyl acetate was performed. The organic layer was washed with water and a saturated sodium chloride aqueous solution in this order, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate:methanol=1:0→10:1). The purified product was concentrated under reduced pressure to thereby obtain 2.99 g (yield: quantitative) of 2-nitro-N-(2-pyridin-3-ylethyl)-N-[3-(1-ethyl-3,3,5-trimethyl-2,4-dioxo-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepin-7-yloxy)propyl]benzenesulfonamide as a yellow oil.

reactant | Potassium carbonate | 13.7 mmol, 1.89 g | C([O-])([O-])=O.[K+].[K+]
reactant | DMF | 50 ml | CN(C)C=O | C3H7NO
reactant | 2-nitro-N-(2-pyridin-3-ylethyl)benzene sulfonamide | 4.56 mmol, 1.40 g | [N+](=O)([O-])C1=C(C=CC=C1)S(=O)(=O)NCCC=1C=NC=CC1 | C13H13N3O4S
reactant | 1-ethyl-7-(3-iodopropoxy)-3,3,5-trimethyl-1,5-dihydrobenzo[b][1,4 ]diazepine-2,4-dione | 5.0 mmol, 2.16 g | C(C)N1C2=C(N(C(C(C1=O)(C)C)=O)C)C=C(C=C2)OCCCI | C17H23IN2O3
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | Water | O | H2O
product | 2-nitro-N-(2-pyridin-3-ylethyl)-N-[3-(1-ethyl-3,3,5-trimethyl-2,4-dioxo-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepin-7-yloxy)propyl]benzenesulfonamide | 2.99 g, yield: quantitative | [N+](=O)([O-])C1=C(C=CC=C1)S(=O)(=O)N(CCCOC1=CC2=C(N(C(C(C(N2C)=O)(C)C)=O)CC)C=C1)CCC=1C=NC=CC1 | C30H35N5O7S
